US08309593B2
(E)/(Z)-3-(4-(2-methoxyethyl)phenoxy)acrylic acid (0.3 g) was dissolved in EtOH (10 mL) and Pd/C (5%, degussa type E101, 40 mg) was added. The mixture was hydrogenated at atmospheric pressure for 2 hours and then filtered and the solvent removed to dryness. After purification by column chromatography using a mixture of hexane/ethyl acetate, 3-(4-(2-methoxyethyl)phenoxy)propanoic acid was obtained as a white solid (0.236 g). NMR (CDCl3, 400 mHz, ppm); 2.85 (t, 4H), 3.35 (s, 3H), 3.55 (t, 2H), 4.25 (t, 2H), 6.85 (d, 2H), 7.1 (d, 2H).

reactant | (Z)-3-(4-(2-methoxyethyl)phenoxy)acrylic acid | 0.3 g | COCCC1=CC=C(O\C=C/C(=O)O)C=C1 | C12H14O4
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 3-(4-(2-methoxyethyl)phenoxy)propanoic acid | COCCC1=CC=C(OCCC(=O)O)C=C1 | C12H16O4
